US08039480B2
Methyl (S)-4,4-difluoro-2-isocyanato-5-phenylpentanoate
Under argon, methyl (S)-2-amino-4,4-difluoro-5-phenylpentanoate (400 mg, 1.64 mmol) was dissolved in 20 ml of dichloromethane. At RT, pyridine (520 mg, 4 eq.) was added dropwise and the resulting solution was stirred for 15 minutes. The mixture was then cooled to 0° C. and admixed with 20% phosgene solution in toluene (2.16 ml, 4.1 mmol, 2.5 eq.). The mixture was stirred at RT for 90 minutes and then the solvent was removed under reduced pressure. The mixture was codistilled with 10 ml of toluene twice more. The crude product thus obtained was used for the reactions which followed without further purification.

reactant | methyl (S)-2-amino-4,4-difluoro-5-phenylpentanoate | 1.64 mmol, 400 mg | N[C@H](C(=O)OC)CC(CC1=CC=CC=C1)(F)F | C12H15F2NO2
reactant | pyridine | 520 mg, 4 eq. | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 4.1 mmol, 2.16 ml, 2.5 eq. | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Methyl (S)-4,4-difluoro-2-isocyanato-5-phenylpentanoate | FC(C[C@@H](C(=O)OC)N=C=O)(CC1=CC=CC=C1)F | C13H13F2NO3
